US06765008B1
Butyl-ethyl-[2,5-dimethyl-7-(2,4,6-trimethylphenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]amine
A mixture of 4-chloro-2,5-dimethyl-7-(2,4,6-trimethylphenyl)-7H-pyrrolo[2,3-d]pyrimidine (1.000 g, 3.36 mmol) and N-ethylbutylamine (3.400 g, 33.60 mmol) in 5 ml of dimethylsulfoxide was heated to reflux for 1.5 hours. The mixture was cooled and treated with water and a few drops of 2 N HCl to pH 6.5 and extracted with ethyl acetate. The organic layer was separated, washed with dilute sodium bicarbonate, brine, and dried over sodium sulfate anhydrous and concentrated to dryness. The residue was purified through silica gel column chromatography to give 995 mg (81% yield) of the title compound as an oil. 1H NMR (CDCl3) δ 6 0.90 (t, 3H), 1.23(t, 3H), 1.35(m, 2H), 1.60-1.70(m, 2H), 1.92(s, 6H), 2.30(s, 3H), 2.40(s, 3H), 2.46(s, 3H), 3.58(t, 2H), 3.66(q, 2H), 6.55(s, 1H), 6.95(s, 2H) ppm. The corresponding hydrogen chloride salt was prepared as a white crystals after recrystallization from ethyl acetate. 1H NMR (D2O) δ 0.90(t, 3H), 1.34(m, 5H), 1.75(m, 2H), 1.90(s, 6H), 2.37(s, 3H), 2.48(s, 3H), 2.55(s, 3H), 3.80-3.94(m, 4H), 7.09(s, 2H) ppm.

reactant | 4-chloro-2,5-dimethyl-7-(2,4,6-trimethylphenyl)-7H-pyrrolo[2,3-d]pyrimidine | 3.36 mmol, 1.000 g | ClC=1C2=C(N=C(N1)C)N(C=C2C)C2=C(C=C(C=C2C)C)C | C17H18ClN3
reactant | N-ethylbutylamine | 33.60 mmol, 3.400 g | C(C)NCCCC | C6H15N
reactant | water | O | H2O
solvent | dimethylsulfoxide | 5 ml | CS(=O)C | C2H6OS
catalyst | HCl | 2 N, a few drops | Cl | ClH
product | Butyl-ethyl-[2,5-dimethyl-7-(2,4,6-trimethylphenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]amine | 995 mg, 81% yield | C(CCC)N(C=1C2=C(N=C(N1)C)N(C=C2C)C2=C(C=C(C=C2C)C)C)CC | C23H32N4
